US04743685
(A) 2-(Chloromethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone, hydrochloride
A suspension of 3.21 g (10 mmol) of 2-(hydroxymethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone in 20 ml of chloroform was cooled to 0° C., and 4.65 ml (64 mmol) of thionylchloride was added dropwise. The mixture was stirred for ten minutes at 0° C. and then heated to reflux for one hour. The solvent was evaporated in vacuo and the residue washed with petroleum ether and dried.in vacuo, yielding 3.66 g of the title compound, melting point 85° C., dec.

reactant | 2-(hydroxymethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone | 10 mmol, 3.21 g | OCC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C20H19NO3
reactant | thionylchloride | 64 mmol, 4.65 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(Chloromethyl)-5-(phenylmethoxy)-1-(phenylmethyl)-4(1H)-pyridinone, hydrochloride | 3.66 g | Cl.ClCC=1N(C=C(C(C1)=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C20H18ClNO2.ClH/c21-12-18-11-19(23)20(24-15-17-9-5-2-6-10-17)14-22(18)13-16-7-3-1-4-8-16;/h1-11,14H,12-13,15H2;1H
